US06133449
(R)-1-(2-Methoxyphenyl)-4-[2-(methyl)-2-(2-pyridinylamino)ethyl]piperazine
9.16 grams (46.6 millimoles) of 1-(2-methoxyphenyl)piperazine in one portion was added under argon to a solution of 10 grams (46.6 millimoles) of (R)4-methyl-3-pyridin-2-yl[1,2,3]oxathiazolidine-2,2-dioxide in 200 milliliters of acetonitrile. The mixture became yellow. After 1/2 hour, the reaction mixture was heated to 50° C. for 1 hour and then stirred at room temperature overnight. Then dilute hydrochloric acid was added. The mixture was washed with ethyl acetate, basified to pH 12 and extracted twice with ethyl acetate. The organic phases were washed with brine, dried (Mg SO4) and subjected to evaporation to give 12.053 grams of the title compound which was purified by columning in the system ethyl ether/hexane (1:1) Al2O3 to afford 9.96 grams of the title compound.

reactant | 1-(2-methoxyphenyl)piperazine | 46.6 millimoles, 9.16 grams | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | (R)4-methyl-3-pyridin-2-yl[1,2,3]oxathiazolidine-2,2-dioxide | 46.6 millimoles, 10 grams | C[C@H]1N(S(OC1)(=O)=O)C1=NC=CC=C1 | C8H10N2O3S
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 200 milliliters | C(C)#N | C2H3N
product | (R)-1-(2-Methoxyphenyl)-4-[2-(methyl)-2-(2-pyridinylamino)ethyl]piperazine | 12.053 grams | COC1=C(C=CC=C1)N1CCN(CC1)C[C@H](NC1=NC=CC=C1)C | C19H26N4O
